US04785004
A third of a solution of 22 g of 2-nonylbromobenzene in 35 ml of tetrahydrofuran is added to a mixture, stirred under an argon atmosphere, of 3.4 g of magnesium chips, 25 ml of tetrahydrofuran and 3 drops of carbon tetrachloride and the whole is heated at the boil under reflux for 30 minutes. The remainder of the 2-nonylbromobenzene solution is then added dropwise over a period of one hour and the reaction mixture is maintained under reflux for 2 hours. After dilution with 40 ml of tetrahydrofuran the whole is cooled in an ice bath to approximately 5° and a solution of 11.6 ml of dimethylformamide in 20 ml of tetrahydrofuran is added dropwise over a period of 15 minutes. After stirring for one hour at room temperature, 250 ml of saturated ammonium chloride solution are added to the reaction mixture, the organic layer is separated off and the aqueous layer is extracted three times with ether. The residue that remains after the combined ethereal extracts have been dried and concentrated by evaporation is purified by chromatography on silica gel with mixtures of petroleum ether with an increasing amount of methylene chloride, yielding the desired 2-nonylbenzaldehyde in the form of a pale yellow liquid.

reactant | 2-nonylbromobenzene | 22 g | C(CCCCCCCC)C1=C(C=CC=C1)Br | C15H23Br
reactant | magnesium | 3.4 g | [Mg] | Mg
reactant | dimethylformamide | 11.6 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
catalyst | carbon tetrachloride | 3 drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-nonylbenzaldehyde | C(CCCCCCCC)C1=C(C=O)C=CC=C1 | C16H24O
